US08633313B2
To a mixture of crude of 1-(2-(2-(methylsulfonyl)phenyl)-1,5-naphthyridin-3-yl)ethanol (700 mg, 2.13 mmol) and phthalimide (627 mg, 4.26 mmol) in THF (21 mL) was added triphenylphosphene (1.12 g, 4.26 mmol) at 0° C. The reaction mixture was stirred for 10 min at same temperature. Diisopropyl azodicarboxylate (0.9 mL, 4.26 mmol) was added to mixture at 0° C. The reaction mixture was stirred for overnight at 0° C. Water was added to reaction mixture and extracted with EtOAc. The organic layer was dried over Na2SO4 and concentrated in vacuo to give 2-(1-(2-(2-(methylsulfonyl)phenyl)-1,5-naphthyridin-3-yl)ethyl)isoindoline-1,3-dione: LC-MS (ESI) m/z 458.1 [M+H]+. It was carried on crude for next step.

reactant | 1-(2-(2-(methylsulfonyl)phenyl)-1,5-naphthyridin-3-yl)ethanol | 2.13 mmol, 700 mg | CS(=O)(=O)C1=C(C=CC=C1)C1=NC2=CC=CN=C2C=C1C(C)O | C17H16N2O3S
reactant | phthalimide | 4.26 mmol, 627 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | Diisopropyl azodicarboxylate | 4.26 mmol, 0.9 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | Water | O | H2O
solvent | THF | 21 mL | C1CCOC1 | C4H8O
product | 2-(1-(2-(2-(methylsulfonyl)phenyl)-1,5-naphthyridin-3-yl)ethyl)isoindoline-1,3-dione | CS(=O)(=O)C1=C(C=CC=C1)C1=NC2=CC=CN=C2C=C1C(C)N1C(C2=CC=CC=C2C1=O)=O | C25H19N3O4S
